US07217736B2
3,3-Dimethyl-1-butyl 5-amino-4-oxopentanoate hydrochloride [compound 16]
From 3,3-dimethyl-1-butanol (5.0 g; 49 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 70° C. The reaction was complete after 4 h. The yield was 0.91 g (60%), mp146–148°.

reactant | 3,3-dimethyl-1-butanol | 49 mmol, 5.0 g | CC(CCO)(C)C | C6H14O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 3,3-Dimethyl-1-butyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCCC(C)(C)C)=O | InChI=1S/C11H21NO3.ClH/c1-11(2,3)6-7-15-10(14)5-4-9(13)8-12;/h4-8,12H2,1-3H3;1H
